US04420487
Preparation of 5-Chloro-2-Isopropyl-6-Sulfamyl-1H-Benzimidazole
To 50 ml of 4 N hydrochloric acid containing 11.8 g of 2-amino-4-chloro-5-sulfamylaniline was added 7.0 g of isobutyric acid and the suspension refluxed for 6 hours. The mixture was concentraded in vacuo to a solid and the solid then added with stirring to 38% ammonium hydroxide and stirred for thirty minutes at 50° C. The solid was collected by filtration, air dried, dissolved in isopropanol, and charcoal added. After boiling for five minutes, the suspension was filtered, cooled, and then filtered through Celite. Recrystallization from isopropanol provided 2.0 g of off-white crystals, mg 256°-259°.

reactant | 2-amino-4-chloro-5-sulfamylaniline | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | isobutyric acid | 7.0 g | C(C(C)C)(=O)O | C4H8O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 4 N, 50 ml, 11.8 g | Cl | ClH
product | 5-Chloro-2-Isopropyl-6-Sulfamyl-1H-Benzimidazole | 2.0 g | ClC1=CC2=C(NC(=N2)C(C)C)C=C1S(N)(=O)=O | C10H12ClN3O2S
